US07452909B2
4-[1-(4-Fluoro-benzyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-methyl-pyridine
The title compound, MS: m/e=306.2 (M+H30), was prepared in accordance with the general method of example 1 from 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and 4-fluoro-benzylbromide.

reactant | 2-methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
reactant | 4-fluoro-benzylbromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
product | 4-[1-(4-Fluoro-benzyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-methyl-pyridine | FC1=CC=C(CN2C(=NC(=C2)C#CC2=CC(=NC=C2)C)C)C=C1 | C19H16FN3
